US05360906
Preparation of N-(3-bromo-5-isoxazolylmethyl)-2-nitroimino imidazoline
N-(3-bromo-5-isoxazolylmethyl)ethylene diamine (4 g), prepared as described above, and nitroguanidine (2.5 g), were added to water (50 ml) and the reaction mixture stirred at 80° C. for 1 hour. The reaction mixture was partitioned with trichloromethane and the organic layer was separated, washed and dried. Thin layer chromatography showed a single product and was used to recover the product as a colorless solid (2.1 g). Recrystallization gave the title compound as colorless crystals (m.p. 149° C.).

reactant | N-(3-bromo-5-isoxazolylmethyl)ethylene diamine | 4 g | BrC1=NOC(=C1)CNCCN | C6H10BrN3O
reactant | nitroguanidine | 2.5 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
solvent | water | 50 ml | O | H2O
product | N-(3-bromo-5-isoxazolylmethyl)-2-nitroimino imidazoline | BrC1=NOC(=C1)CN1C(NCC1)=N[N+](=O)[O-] | C7H8BrN5O3
